Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
DISCHARGE EXAM:

VS: BP 161 / 93 HR88RR 1802 94Ra
GENERAL: Sitting up in bed with C-collar in place, NAD
HEENT: anicteric sclera, PERRLA MMM  
CV: RRR, no murmurs, gallops, or rubs  
PULM: Distant breath sounds, no wheezing 
GI: abdomen soft, NDNT, no rebound/guarding
EXTREMITIES: no edema   
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric  
DERM: Warm and well perfused, no rashes

ADMISSION LABS:

___ 06:05AM   GLUCOSE-96 UREA N-23* CREAT-0.7 SODIUM-139 
POTASSIUM-4.3 CHLORIDE-101 TOTAL CO2-23 ANION GAP-15
___ 06:05AM   estGFR-Using this
___ 06:05AM   TSH-2.1
___ 06:05AM   WBC-6.1 RBC-3.80* HGB-12.7 HCT-37.7 MCV-99* 
MCH-33.4* MCHC-33.7 RDW-12.8 RDWSD-46.7*
___ 06:05AM   PLT COUNT-181

DISCHARGE LABS:

___ 06:50AM BLOOD WBC-5.5 RBC-3.91 Hgb-13.2 Hct-38.7 
MCV-99* MCH-33.8* MCHC-34.1 RDW-12.5 RDWSD-45.4 Plt ___
___ 06:50AM BLOOD Glucose-99 UreaN-17 Creat-0.7 Na-138 
K-4.1 Cl-103 HCO3-23 AnGap-12
___ 06:50AM BLOOD Calcium-9.9 Phos-3.8 Mg-1.9
___:05AM BLOOD TSH-2.1

IMAGING:

___

CT CHEST:

IMPRESSION:
 
 
1. Chronic appearing compression deformities of L1 and L2.  No 
significant
retropulsion.  No definite acute fracture seen.
2. Multilevel degenerative changes with ankylosis of the 
thoracic spine.
3. Severe centrilobular emphysematous changes.
 
___
CT C SPINE:

 Final Report
EXAMINATION:  Cervical spine radiographs, three views.
 
INDICATION:  Dens fracture.
 
COMPARISON:  CT from earlier on the same day.
 
FINDINGS: 
 
Type 3 dens fracture is not well depicted on radiography.  
Alignment appears
normal, however.  There is no spondylolisthesis.  Mild 
degenerative changes
affect the C4-C5 and C5-C6 interspaces, which are mildly 
narrowed with
medium-size anterior osteophytes.  Bones appear demineralized.
 
IMPRESSION: 
 
Nondisplaced C2 fracture, not well-visualized with radiography.

 
Brief Hospital Course:
Hospital Summary:
=================

___ is a ___ female past medical history of 
hypertension admitted after mechanical fall from standing height 
resulting in type III dens fracture.  Patient cleared by 
orthospine but will require C collar for 2 weeks until can been 
seen as an outpatient. She then developed hypoxia in the 
emergency department which resolved on arrival to the floor.  
Found to have COPD on imaging without excacerbation. Evaluated 
by ___ with plan for ongoing home therapy. 

Transitional Issues;
=====================
- Increased lisinopril to 10mg daily, please obtain BMP in 2 
weeks for electrolytes check
- started on Spiriva and albuterol PRN
- Consider outpatient PFT testign for new diagnosis of emphysema 

- added amlodipine 5mg daily for SBP in 150s despite increasing 
her lisinopril 

ACTIVE ISSUES:
=================

#Falls:
#Type III dens fracture:
History consistent with mechanical fall. C-collar placed (will 
likely require for several weeks, final duration to be 
determined in follow-up with ortho spine) and follow up with 
ortho spine outpatient in 2 weeks. Discharged home with ___ 
and ___.

#Acute Hypoxia:
#COPD:
Patient admitted to medicine with acute hypoxia (93% on 2 L 
nasal cannula), reported to desat to 85% when ambulating. 
Resolved on arrival to the floor, satting comfortably on RA 
without any dyspnea. EKG normal. CT consistent with emphysema 
and patient continues to smoke. No evidence of exacerbation 
currently. Started on LAMA and ___. Nicotine patches for 
cessation prescribed. Walking O2 sats normal. 

#Tobacco use disorder:
Interested in nicotine patches now that aware of emphysema

#Hypertension:
Significant hypertension during stay. Increased home lisinopril 
to 10mg daily and added amlodipine 5mg daily. Will need to f/u 
w/ PCP for further changes in BP regimen.

She was discharged to home with services on ___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 

 
Discharge Medications:
1.  Albuterol Inhaler 1 PUFF IH Q6H:PRN shortness of breath  
RX *albuterol sulfate [Ventolin HFA] 90 mcg 1 puff inhalation 
every six (6) hours Disp #*1 Inhaler Refills:*1 
2.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth once daily Disp #*30 
Tablet Refills:*0 
3.  Nicotine Patch 21 mg/day TD DAILY 
RX *nicotine 21 ___ one patch on shoulder area 
replace daily (every 24 hours) Disp #*30 Patch Refills:*0 
4.  Tiotropium Bromide 1 CAP IH DAILY 
RX *tiotropium bromide [Spiriva with HandiHaler] 18 mcg 1 
inhalation inhlation once daily Disp #*30 Capsule Refills:*0 
5.  Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 tablet(s) by mouth once daily Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cervical dens fracture
Chronic obstructive lung disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear ___,   
___ was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were admitted after a fall that caused a neck fracture 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were seen by the spine doctors and have a collar in place
- You were diagnosed with chronic obstructive lung disease and 
started on inhalers
- We adjusted your  home blood pressure meds 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- You will need to attend all your follow up appointments as 
below
- Please continue on nicotine patches to help with quitting 
smoking given significant lung disease and damage from smoking
- Please use Tiotropium inhaler daily and you may use albuterol 
inhaler as needed for shortness of breath 
-Please continue to take all of your medications and follow-up 
with your appointments as listed below.  

We wish you the best!  
Sincerely,  
Your ___ Team 
 
Followup Instructions:
___